********** MAX9648 MACROMODEL
********** ------------------------------
********** Revision 1, 2/2014
********** ------------------------------
********** ------------------------------
********** Connections
**********      1  = IN+
**********      2  = VSS
**********      3  = IN-
**********      4  = OUT 
**********      5  = VDD 
.subckt MAX9648 IN+ VSS IN- OUT VDD 
X_1  IN+ IN- OUT VDD VSS COMP
.ends
****************
.SUBCKT COMP   311  2  612  401  5
RINB 2 18 1000
RINA 3 19 1000

DIN1 5 18 DMOD2
DIN2 18 4 DMOD2
DIN3 5 19 DMOD2
DIN4 19 4 DMOD2
FIN1 18 5 VTEMP 0.75
FIN2 19 5 VTEMP 1.25
Ib1 3 5 0.3p
Ib2 2 5 0.3p
CIN1 2 10 1e-12
CIN2 3 10 1e-12
RD1 18 11 5e+11  
RD2 19 11 5e+11
RCM 11 10 9.975e+12
EXX 10 5 17 5 1.0
EEE 10 50 17 5 1.0
ECC 40 10 VALUE={V(4)-V(17)-0.2}
RAA 4 17 100MEG
RBB 17 5 100MEG
RSLOPE 4 5 1e+12
GPWR 4 5 26 10 9.5e-7  
EOX 120 10 31 32 0.6
RCX 120 121 1K
RDX 121 10 1K
RBX 120 122 1K
RAX 122 10 MRAX 1.0105e3
.MODEL MRAX RES (TC1=4e-6)  
RX8 40 815 10K
RY8 815 50 5K
RBA8 815 50 5K
RBB8 815 811 1K
EIN8 810 811 3 2  -1.2 
EVOSS 814  811a 122 121  1    
V_F   811a  811  0
RCA8 40 812  0.89K  
RCB8 40 813   0.81K 
DDA8 812 813 DDEL1
DDB8 813 812 DDEL2
CDB8 813 812 1p
RCDB8 813 812 5500
FSET8 809 50 VSENS1   1 
GSET8x   809  50   4    5    0.02e-3
****************
CCC 809 50 5P
QDN1 812 810 809 NPNX
QDN2 813 814 809 NPNX
.MODEL NPNX NPN (BF=100 RE=25)
.MODEL  DDEL1  D ( RS=1  TT=0.1U N=0.7 )
.MODEL DDEL2 D ( RS=1  TT=0.1U N=0.7 )
GDM 10 57 812 813  0.1  
ISET 10 24 1e-3
DA1 24 23 DMOD1
RBAL 23 22 1000
ESUPP 22 21 4 5 1.0
VOFF 21 10 -1.25
DA2 24 25 DMOD1
VSENS1 25 26 DC 0
RSET 26 10 1K
CSET 26 10 1e-10
FSET 10 31 VSENS1 1.0
RVOS 31 32 1K
RIB 32 33 MRIB 1K 
.MODEL MRIB RES (TC1=0.0029713)
RISC 33 34 MRISC 1K 
.MODEL MRISC RES (TC1=0)
R001 34 10 1K
ECMR 38 10 11 10 1.0
VCMX 38 39 DC 0
RCM2 41 10 1MEG
RCM1 39 41 1e6
CCM 41 10 1.59155e-10
EPSR 42 10 4 10 1.0
CDC1 43 42 10U
VPSX 43 44 DC 0
RPSR2 45 10 1MEG
RPSR1 44 45 1e6
CPSR 45 10 1.59155e-10
FTEMP 10 27 VSENS1 1.0
ETEMP 27 28 32 33 0.632  
DTA 27 10 DMOD2
DTB 28 29 DMOD2
VTEMP 29 10 DC 0
FX 10 93 VOX 1.0
DFX1 93 91 DMOD1
VFX1 91 10 DC 0
DFX2 92 93 DMOD1
VFX2 10 92 DC 0
FPX 4 10 VFX1 1.0
FNX 10 5 VFX2 1.0
DCX1 98 97 DMOD1
DCX2 95 94 DMOD1
RCX1 99 98 100
RCX2 94 99 100
VCXX 99 96 DC 0
ECMX 96 10 11 10 1.0
ECMP 40 97 26 10 -5e-1
ECMN 95 50 26 10   0.1
GOS 10 57 122 121 1.0
FCMR 10 57 VCMX 100
FPSR 10 57 VPSX 10
FCXX 57 10 VCXX 10
RDM 57 10 2091   
C2 57 10  6.59e-12   
DLIM1 52 57 DMOD1
DLIM2 57 51 DMOD1
ELIMP 51 10 26 10 99.3
ELIMN 10 52 26 10 4.16e2  
G2 58 10 57 10 18e-5  
R2 58 10 79.7  
GO2 59 10 58 10 1e4  
RO2 59 10 1K
DCLMP2 59 40 DMOD1
DCLMP1 50 59 DMOD1
GO3 10 71 59 10 1
RO3 71 10 20 
RDN2 710 71 100
RDP 720 72 100
DDN1 73 74 DMOD1
DDN2 73 710 DMOD1
RNO 78 81 1
RPO 79 81 0.1
DDP1 75 72 DMOD1
DDP2 71 720 DMOD1
C1 58 59 1e-10
VOOP 40 76 DC 0
VOON 77 50 DC 0
QNO 76 73 78 NPN1
QNP 77 72 79 PNP1
*****************
MN1  79  350  77  77  MNMOD
E_MN1  350  77  10  71  1.0
MP1  78 360 76  76 MPMOD
E_MP1    76  360  71  10  1.0
*****************
VOX 86 6 DC 0
RNT 76 81 100MEG
RPT 81 77 1MEG
EPOS 40 74 26 10 0.0
ENEG 75 50 26 10 0.1
GSOURCE 74 73 33 34 1e-1
GSINK 72 75 33 34  3.5e-5
ROO 81 86  0.01
D00 oo 6 DMOD23
V00 oo 5 1m
Dsc1 6 601 dmod
Dsc2 602 6 dmod
Dsc3 611 601 dmod
Dsc4 602 611 dmod
Isc 601 602 45m
E400 400 5 VALUE={V(401)+0.2}
R66 6 5 10k
E311 311 3 VALUE={(V(6)-V(10))/V(10)*(-2m)}
V400 400 4 0
F400 400 5 V400 -1
G400 400 5 VALUE={-1.5333u*V(400)-27.1u}
S1 611 612 86 5 smod
Icc 401 5 50u
Gcc 401 5 401 5 5u
.model smod Vswitch(ron=300g roff=1m Von=0.8 voff=0.5 )
.MODEL dmod D()
.MODEL DMOD1 D
.MODEL DMOD2 D (IS=1e-17)
.MODEL DMOD23 D (IS=1e-4)
.MODEL NPN1 NPN (BF=100 IS=1e-15)
.MODEL PNP1 PNP (BF=100 IS=1e-15)
.MODEL MNMOD  NMOS  VTO=0.5  W=40u  L=1u
.MODEL MPMOD PMOS  VTO=-0.5  W=40u  L=1u
RA 73 40 10e6
RB 72 50 10e6
RC 72 73 10e6
RD 10 57 10e6
RE 24 10 10e6
RF 93 10 10e6
E_TEST   100a   5   814  810   1.0
R_TEST  100a   5    1K
.ENDS 


* Copyright (c) 2003-2015 Maxim Integrated Products.  All Rights Reserved.
